US08614206B2
Following the procedure for Example 503 starting with 5-chloro-1-cyclopropylmethyl-4-nitro-1H-pyrazole and (R)-2,2,2-trifluoro-N-(hexahydro-1H-azepin-4-yl)-acetamide gave (R)—N-(1-(1-cyclopropylmethyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide as a pale yellow gum (0.98 g, 55%). 1H-NMR (400 MHz, CDCl3) δ 8.08 (s, 1H), 6.42-6.39 (m, 1H), 4.22-4.14 (m, 1H), 4.00-3.85 (m, 2H), 3.44-3.32 (m, 1H), 3.30-3.15 (m, 3H), 2.25-2.05 (m, 2H), 2.00-1.75 (m, 4H), 1.30-1.20 (m, 1H), 0.70-0.62 (m, 2H), 0.50-0.35 (m, 2H).

reactant | 5-chloro-1-cyclopropylmethyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1CC1CC1)[N+](=O)[O-] | C7H8ClN3O2
reactant | (R)-2,2,2-trifluoro-N-(hexahydro-1H-azepin-4-yl)-acetamide | FC(C(=O)N[C@H]1CCNCCC1)(F)F | C8H13F3N2O
product | (R)—N-(1-(1-cyclopropylmethyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide | 0.98 g, 55% | C1(CC1)CN1N=CC(=C1N1CC[C@@H](CCC1)NC(C(F)(F)F)=O)[N+](=O)[O-] | C15H20F3N5O3
